US08048909B2
tert-Butyl {[4-isopropyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
Using tert-butyl {[5-bromo-4-isopropyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (596 mg), phenylboronic acid (307 mg), tetrakis(triphenylphosphine)palladium (218 mg) and sodium carbonate (401 mg), a procedure as in Reference Example 56 was performed to give the title compound as a pale-red oil (yield 218 mg, 37%).

reactant | tert-butyl {[5-bromo-4-isopropyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 596 mg | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C)C(C)C | C20H27BrN2O4S
reactant | phenylboronic acid | 307 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 401 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 218 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl {[4-isopropyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 218 mg, 37% | C(C)(C)C=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C26H32N2O4S
